### PR TITLE
fix(Mathoverflow/235893): quantifier fix

### PR DESCRIPTION
**Pull request by mo271**
otherwise $n=1$ is a counterexample

### CODE REVIEW

**Comment by smmercuri** [comment]
So the formalization here is the negation of the original question on [math overflow](https://mathoverflow.net/questions/235893/does-there-exist-a-bijection-of-mathbbrn-to-itself-such-that-the-forward-m). Could you please add a comment to the effect that the docstring is negating the original source question for clarity?

**Comment by mo271** [comment]
@smmercuri I now 
 - cite the original mathover question (almost) verbatim
 -  the only place where I don't cite it verbatim is adding "$n>1$", because for $n=1$ one can prove the statement, as pointed out in the original question
  - I also add a proof for the $n=1$ case

File: FormalConjectures/Mathoverflow/235893.lean [hunk 1]
```diff
@@ -43,12 +43,168 @@ theorem Continuous.isConnectedMap {X Y : Type*} [TopologicalSpace X] [Topologica
     {f : X → Y} (hf : Continuous f) : IsConnectedMap f :=
   fun _ h ↦ IsConnected.image h f (Continuous.continuousOn hf)
 
+
+/--
```
Comment (YaelDillies) [inline FormalConjectures/Mathoverflow/235893.lean]:
```suggestion
/--
```

File: FormalConjectures/Mathoverflow/235893.lean [hunk 2]
```diff
@@ -43,12 +43,168 @@ theorem Continuous.isConnectedMap {X Y : Type*} [TopologicalSpace X] [Topologica
...
+    simp [g]
+  rw [hf_eq]
+  have h1 : IsConnectedMap h := isConnectedMap_homeomorph h
+  have h2 : IsConnectedMap h.symm := isConnectedMap_homeomorph h.symm
+  change IsConnectedMap (h.symm ∘ g.symm ∘ h)
+  exact isConnectedMap_comp (isConnectedMap_comp h1 hg_symm_conn) h2
+
+
+
 /--
```
Comment (YaelDillies) [inline FormalConjectures/Mathoverflow/235893.lean:198]:
```suggestion

/--
```

**Review by YaelDillies — APPROVED** [review]
